Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
flank pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo G1P0 at ___ who presented to the ED with left-sided 
back/flank pain. In the ED she was afebrile, but had labs 
consistent with likely pyelonephritis. She was transferred to 
the ___ Service for further management. 

She is feeling warm due to her current fever, but is otherwise 
well. Her pain is improved with Tylenol. She denies nausea, 
vomiting, cramping, vaginal bleeding. 

 
Past Medical History:
MedHx: denies
SurgHx: tonsillectomy

 
Social History:
SocialHx: denies T/E/D

 
Physical Exam:
On Arrival:
Vitals - T:102.5  BP:98/60  HR:104  RR:20
General: NAD, resting comfortably
CV: RRR
Lungs: CTAB
Back: +CVAT on the left
Abdomen: soft, no TTP
Extremities: no edema or calf TTP

 
Pertinent Results:
___ 12:31PM BLOOD Glucose-73 UreaN-7 Creat-0.6 Na-136 K-3.6 
Cl-103 HCO3-23 AnGap-14
___ 12:31PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 12:31PM URINE Blood-LG Nitrite-POS Protein-75 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-MOD
___ 12:31PM URINE ___ WBC->50 Bacteri-MANY Yeast-NONE 
___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
The patient is a ___ year old gravida 1 para 0 admitted to the 
antepartum service at 15 weeks and 4 days for treatment of 
pyelonephritis. Her Tmax was on arrival, 102.5.  The patient was 
started on ceftriaxone.  Her pain was controlled with oral pain 
medication.  Her urine culture grew pan sensitive E.Coli.  The 
patient remained afebrile for 36 hours.  At this point her flank 
pain was much improved.  She was transitioned to Macrobid.  She 
remained afebrile on Macrobid for 24 hours.  She was discharged 
to home in stable condition on HD#5 in good condition.  She was 
given presription to complete a full treatment course of 
Macrobid and for suppression therapy for the remainder of her 
pregnancy.  Of note, patient had blood cultures drawn in the ED 
which had no growth to date at the time of her discharge. 
 
Medications on Admission:
PNV
 
Discharge Medications:
1. nitrofurantoin (macrocryst25%) 100 mg Capsule Sig: One (1) 
Capsule PO BID (2 times a day).
Disp:*24 Capsule(s)* Refills:*0*
2. Macrobid ___ mg Capsule Sig: One (1) Capsule PO once a day: 
start after completion of previous prescription; take for the 
remainder of the pregnancy.
Disp:*30 Capsule(s)* Refills:*4*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis at 15 weeks gestation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
drink lots of liquids to keep urine dilute
take antibiotic (nitrofurantoin) twice a day 
 
Followup Instructions:
___